US06716998B2
Treatment of 1-[(4-methylphenyl)sulfonyl]-1H-indol-4-ol with potassium carbonate and allyl bromide in N,N-dimethylformamide (29.24 g, 0.242 mol) followed by aqueous workup and extraction with diethyl ether provides 4-(allyloxy)-1-[(4-methylphenyl)sulfonyl]-1H-indole.

reactant | 1-[(4-methylphenyl)sulfonyl]-1H-indol-4-ol | CC1=CC=C(C=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)O | C15H13NO3S
reactant | N,N-dimethylformamide | 0.242 mol, 29.24 g | CN(C=O)C | C3H7NO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | allyl bromide | C(C=C)Br | C3H5Br
product | 4-(allyloxy)-1-[(4-methylphenyl)sulfonyl]-1H-indole | C(C=C)OC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C18H17NO3S
